US06825170B2
(2E)-3-[2,2′-bithiophen]-5-yl-2-propenal
The title compound was prepared by a procedure analogous to Reference Example 30 by substituting [2,2′-bithiophene]-5-carboxaldehyde for the 4-(1H-pyrazol-1-yl)-benzaldehyde of Reference Example 30. MS 221 (M+H)+.

reactant | [2,2′-bithiophene]-5-carboxaldehyde | S1C(=CC=C1C=O)C=1SC=CC1 | C9H6OS2
reactant | 4-(1H-pyrazol-1-yl)-benzaldehyde | N1(N=CC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
product | (2E)-3-[2,2′-bithiophen]-5-yl-2-propenal | S1C(=CC=C1/C=C/C=O)C=1SC=CC1 | C11H8OS2
